US05324747
A solution of 0.205 g (0.373 mmol) of N-(2-methoxy-2-oxoethyl)-N-[3,5-bis(decyloxy)phenyl]glycine methyl ester and 1.5 ml (1.5 mmol) of 1.0N NaOH in 10 ml of methanol was stirred at reflux for 30 minutes. The solvent was removed under reduced pressure and the residue was acidified with 0.18 ml of acetic acid, the product was extracted with ethyl acetate and the dried extract was concentrated at reduced pressure to a solid. Recrystallization from methanol-water gave 61 mg (mp 110°-114°) of N-(carboxymethyl)-N-[3,5-bis(decyloxy)phenyl]glycine.

reactant | N-(2-methoxy-2-oxoethyl)-N-[3,5-bis(decyloxy)phenyl]glycine methyl ester | 0.373 mmol, 0.205 g | COC(CN(C1=CC(=CC(=C1)OCCCCCCCCCC)OCCCCCCCCCC)CC(=O)OC)=O | C32H55NO6
reactant | NaOH | 1.5 mmol, 1.0N, 1.5 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | N-(carboxymethyl)-N-[3,5-bis(decyloxy)phenyl]glycine | 61 mg | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)OCCCCCCCCCC)OCCCCCCCCCC | C30H51NO6
